US06452014B1
To a mixture of 4-bromothiophene-2-carboxaldehyde (1.91 g, 10.0 mmol) and 2,4-thiazolidinedione (1.40 g, 12.0 mmol) in ethanol (30 mL) was added piperidine (1.0 mL, 10.0 mmol). The reaction mixture was heated at reflux for 3 h, then cooled on an ice-bath, and the precipitated products were collected by filtration. The cake was washed with 40% ethanol and dried to afford 5-(4-bromothiophen-2-ylmethylene)-2,4-thiazolidinedione (2.53 g, 87%).

reactant | 4-bromothiophene-2-carboxaldehyde | 10.0 mmol, 1.91 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | 2,4-thiazolidinedione | 12.0 mmol, 1.40 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 10.0 mmol, 1.0 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-(4-bromothiophen-2-ylmethylene)-2,4-thiazolidinedione | 2.53 g, 87% | BrC=1C=C(SC1)C=C1C(NC(S1)=O)=O | C8H4BrNO2S2
